US05607956
1-(2-Ethyl-4-methyl-5-oxazolyl)-1-(3-thienyl)ethanol
Starting with 3-bromothiophene and 5-acetyl-2-ethyl-4-methyloxazole and following the general method of Example 4 the title compound was prepared. M.p. 77.5°-79° C.

reactant | 3-bromothiophene | BrC1=CSC=C1 | C4H3BrS
reactant | 5-acetyl-2-ethyl-4-methyloxazole | C(C)(=O)C1=C(N=C(O1)CC)C | C8H11NO2
product | 1-(2-Ethyl-4-methyl-5-oxazolyl)-1-(3-thienyl)ethanol | C(C)C=1OC(=C(N1)C)C(C)(O)C1=CSC=C1 | C12H15NO2S
